US09193719B2
1-(5-((2-Chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-(1-methylcyclopropyl)-1H-1,2,4-triazol-5(4H)-one (0.10 g, 0.28 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.08 g, 0.36 mmol), and K2CO3 (0.10 g, 0.73 mmol) were suspended in dioxane (1.7 mL) and water (0.33 mL). The suspension was sonicated and sparged with Ar for 10 min. Pd(PPh3)4 (0.032 g, 0.028 mmol) was added and the reaction mixture was stirred at 85° C. for 12 h. Sat. NH4Cl (aq) (10 mL) was added and the resultant emulsion was extracted with EtOAc (4×10 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-3-(1-methylcyclopropyl)-1H-1,2,4-triazol-5(4H)-one (0.052 g, 46.1%) as an white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.76 (s, 1H), 8.37 (d, J=5.7 Hz, 1H), 8.25 (s, 1H), 7.96 (s, 1H), 7.83 (d, J=8.8 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.19 (d, J=2.4 Hz, 1H), 6.64 (dd, J=5.7, 2.4 Hz, 1H), 3.84 (s, 3H), 2.33 (s, 3H), 1.38 (s, 3H), 1.06 (d, J=2.3 Hz, 2H), 0.81 (t, J=2.3 Hz, 2H); MS (ESI) m/z: 404.2 (M+H+).

reactant | 1-(5-((2-Chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)-3-(1-methylcyclopropyl)-1H-1,2,4-triazol-5(4H)-one | 0.28 mmol, 0.10 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C)N1N=C(NC1=O)C1(CC1)C | C17H16ClN5O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.36 mmol, 0.08 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 0.73 mmol, 0.10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.33 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.028 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-methyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-3-(1-methylcyclopropyl)-1H-1,2,4-triazol-5(4H)-one | 0.052 g, 46.1% | CC1=C(C=CC(=N1)N1N=C(NC1=O)C1(CC1)C)OC1=CC(=NC=C1)C=1C=NN(C1)C | C21H21N7O2
